US07625938B2
Thus the slow moving enantiomer tert-butyl 2-{1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinecarboxylate (0.74 g, 2.42 mmol) from a chiral separation as described above was treated with TFA/CH2Cl2 (1:1, 10 mL) for 1 h at r.t. The reaction was concentrated on a rotovap and the residual TFA was removed by co-evaporation from toluene. The resulting ethyl 4-(1-hydrazinoethyl)benzoate was then dissolved in CH2Cl2 (15 mL) and cooled to −78° C. A solution of benzoyl chloride (365 μL, 3.15 mmol) and 2,6-di-tert-butyl-4-methylpyridine (745 mg, 3.63 mmol) in CH2Cl2 (5 mL) was added slowly at −78° C. After 3 h at −78° C., the reaction mixture was loaded quickly on a SiO2 column and eluted with 30% EtOAc/hexane. Fractions containing product were concentrated and purified further on HPLC using Kromasil C8 column (10% to 70% CH3CN/H2O/0.1% TFA, 12 min), and again on silica gel column (30% EtOAc/Hexane) to give (R)-(+)-ethyl 4-[1-(2-benzoylhydrazino)ethyl]benzoate. HPLC/MS: m/z=313.3 (M+1)+, Rt=3.08 min. Daicel column Chiralcel OJ, 40° C., 0.5 mL/min, 10% isopropanol/90% n-heptane: t 35.79 min; [α]D20=+192.40 (c1, CHCl3); 1H NMR (500 MHz, CDCl3): δ 8.03 (2H, d, J=8.0 Hz), 7.94 (1H, br s), 7.66 (2H, d, J=7.5 Hz), 7.51 (1H, t, J=7.5 Hz), 7.54 (2H, d, J=8.0 Hz), 7.40 (2H, t, J=8.0 Hz), 4.39 (2H, q, J=7.0 Hz), 4.36 (1H, q, J=7.0 Hz), 1.46 (3H, d, J=6.0 Hz), 1.41 (3H, t, J=7.0 Hz); 13C NMR (500 MHz, CDCl3): δ 167.76, 166.69, 148.16, 132.70, 132.27, 130.21, 130.18, 128.94, 127.47, 127.15, 61.22, 60.21, 21.21, 14.58. (S)-(−)-ethyl 4-[1-(2-benzoylhydrazino)ethyl]-benzoate was similarly prepared from the faster moving isomer of tert-butyl 2-{1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinecarboxylate. HPLC/MS: m/z=313.4 (M+1)+, Rt=3.09 min. Daicel column Chiralcel OJ, 40° C., 0.5 mL/min, 10% isopropanol/90% n-heptane: t 34.99 min; [α]D20=−194.4° (c1, CHCl3); 1H NMR (500 MHz, CDCl3): δ 8.02 (2H, d, J=8.0 Hz), 7.73 (1H, br s), 7.65 (2H, d, J=8.0 Hz), 7.49 (1H, t, J=8.0 Hz), 7.48 (2H, d, J=8.0 Hz), 7.39 (2H, t, J=8.0 Hz), 4.38 (2H, q, J=7.0 Hz), 4.34 (1H, q, J=7.0 Hz), 1.44 (3H, d, J=6.5 Hz), 1.41 (3H, t, J=7.0 Hz); 13C NMR (500 MHz, CDCl3): δ 167.81, 166.74, 148.73, 132.92, 132.15, 130.13, 130.02, 128.90, 127.43, 127.12, 61.20, 60.09, 21.52, 14.58.

reactant | tert-butyl 2-{1-[4-(ethoxycarbonyl)phenyl]ethyl}hydrazinecarboxylate | 2.42 mmol, 0.74 g | C(C)OC(=O)C1=CC=C(C=C1)C(C)NNC(=O)OC(C)(C)C | C16H24N2O4
reactant | TFA CH2Cl2 | 10 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
reactant | benzoyl chloride | 3.15 mmol, 365 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2,6-di-tert-butyl-4-methylpyridine | 3.63 mmol, 745 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-(+)-ethyl 4-[1-(2-benzoylhydrazino)ethyl]benzoate | C(C1=CC=CC=C1)(=O)NN[C@H](C)C1=CC=C(C(=O)OCC)C=C1 | C18H20N2O3
